US03950338
Condensation of 1-p-chlorobenzyl-piperazine with 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido-(2,3-d)pyrimidine, as described in Example VII, gives, in a yield of 74%, 2-(4'-p-chlorobenzyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine; melting point 150°C, after recrystallisation from ethyl acetate.

reactant | 1-p-chlorobenzyl-piperazine | ClC1=CC=C(CN2CCNCC2)C=C1 | C11H15ClN2
reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido-(2,3-d)pyrimidine | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
product | 2-(4'-p-chlorobenzyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | yield of 74% | ClC1=CC=C(CN2CCN(CC2)C=2N=CC3=C(N2)N(C=C(C3=O)C(=O)OCC)CC)C=C1 | C23H26ClN5O3
